US07674795B2
In a 10-ml round-bottomed flask, dissolve 100 mg of 4-(3H-imidazo[4,5-c]pyridin-2-yl)-fluoren-9-one, obtained in Example 1, in 3 ml of methanol, then add successively 197 mg of benzylhydrazine dihydrochloride and 138 mg of dry sodium acetate and heat at 50-55° C. for 5 hours. Pour the cooled reaction mixture into 10 ml of water, extract with ethyl acetate then twice with dichloromethane. Combine the organic phases, wash with a saturated aqueous solution of sodium chloride, dry over sodium sulphate then concentrate under reduced pressure. After purification by chromatography on silica gel (40-63 μm), eluting with a mixture of dichloromethane and methanol (93-7 by volume), we obtain 37 mg of N-benzyl-N′-[4-(1H-imidazo[4,5-c]pyridin-2-yl)-fluoren-9-ylidene]-hydrazine, in the form of a yellow foam with the following characteristics:

reactant | benzylhydrazine dihydrochloride | 197 mg | Cl.Cl.C(C1=CC=CC=C1)NN
reactant | sodium acetate | 138 mg | C(C)(=O)[O-].[Na+]
reactant | water | 10 ml | O | H2O
reactant | 4-(3H-imidazo[4,5-c]pyridin-2-yl)-fluoren-9-one | 100 mg | N1=C(NC=2C=NC=CC21)C2=CC=CC=1C(C3=CC=CC=C3C21)=O | C19H11N3O
solvent | methanol | 3 ml | CO | CH4O
product | N-benzyl-N′-[4-(1H-imidazo[4,5-c]pyridin-2-yl)-fluoren-9-ylidene]-hydrazine | 37 mg | C(C1=CC=CC=C1)NN=C1C2=CC=CC=C2C=2C(=CC=CC12)C=1NC2=C(C=NC=C2)N1 | C26H19N5
